US05624935
2-Amino-5-bromo-3-nitropyridine
100 ml of concentrated sulfuric acid were added to 25.0 g of 2-amino-5-bromopyridine, and 8.9 ml of concentrated nitric acid were then added dropwise to the mixture at a temperature of 50° to 60° C. over a period of 1 hour. The mixture was then stirred at 60° C. for 30 minutes. At the end of this time, the reaction mixture was poured into ice-water and neutralized by the addition of an aqueous solution of sodium hydroxide. The crystals which precipitated were collected by filtration and washed with ethanol, to give 19.1 g of the title compound, melting at 180°-182° C.

reactant | 2-amino-5-bromopyridine | 25.0 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | nitric acid | 8.9 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
product | 2-Amino-5-bromo-3-nitropyridine | 19.1 g | NC1=NC=C(C=C1[N+](=O)[O-])Br | C5H4BrN3O2
